US04216228
In a manner analogous to that described in Example 1, 31 g of N-4-chlorobenzyl-N-cyclopentylamine were reacted with 13 g of propyl isocyanate. 32 g of N-4-chlorobenzyl-N-cyclopentyl-N'-propylurea were obtained. Melting point: 103°-105° C.

reactant | N-4-chlorobenzyl-N-cyclopentylamine | 31 g | ClC1=CC=C(CNC2CCCC2)C=C1 | C12H16ClN
reactant | propyl isocyanate | 13 g | C(CC)N=C=O | C4H7NO
product | N-4-chlorobenzyl-N-cyclopentyl-N'-propylurea | 32 g | ClC1=CC=C(CN(C(=O)NCCC)C2CCCC2)C=C1 | C16H23ClN2O
